US05023258
(i) 2-(4-[4-Methoxyphenyl]piperazin-1-yl)-5-nitropyridine
A mixture of 1-(4-methoxyphenyl)piperazine dihydrochloride (5.30 g, 20 mmole), 2-chloro-5-nitropyridine (3.2 g, 20 mmole) and potassium carbonate (4.14 g, 30 mmole) in DMF (20 ml) was heated at 120° for 66 hours. The reaction mixture was cooled, diluted with water and the resulting precipitate collected by filtration. To this solid was added methanol (200 ml) and the mixture was heated under reflux for 0.17 hour. After cooling, the solid was collected by filtration and dried to yield the desired product, m.p. 165°-6° (4.0 g, 64%), which was used without further purification.

reactant | 1-(4-methoxyphenyl)piperazine dihydrochloride | 20 mmole, 5.30 g | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | 2-chloro-5-nitropyridine | 20 mmole, 3.2 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 30 mmole, 4.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(4-[4-Methoxyphenyl]piperazin-1-yl)-5-nitropyridine | COC1=CC=C(C=C1)N1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C16H18N4O3
